US09193669B2
A mixture of N-(3-(3-aminophenyl)prop-2-ynyl)-2,2,2-trifluoroacetamide (0.75 g, 3.09 mmol) and 1-oxaspiro[2.5]octane (1.2 g, 9.2 mmol) in EtOH:H2O (9:1) was stirred under reflux for 36 h. The reaction mixture was concentrated under reduced pressure. Purification by column chromatography (20% to 30% EtOAc—hexanes gradient) gave 2,2,2-trifluoro-N-(3-(3-((1-hydroxycyclohexyl)methylamino)phenyl)prop-2-ynyl)acetamide as an off white solid. Yield (0.48 g, 43%); 1H NMR (400 MHz, DMSO-d6) δ 7.28 (s, 1H), 7.00 (t, J=7.6 Hz, 1H), 6.53-6.51 (m, 2H), 6.39 (d, J=7.6 Hz, 1H), 5.28 (t, J=5.6 Hz, 1H), 4.18 (s, 1H), 4.01 (s, 2H), 2.88 (d, J=5.6 Hz, 2H), 1.60-1.47 (m, 4H), 1.39-1.34 (m, 4H), 1.22-1.14 (m, 2H).

reactant | N-(3-(3-aminophenyl)prop-2-ynyl)-2,2,2-trifluoroacetamide | 3.09 mmol, 0.75 g | NC=1C=C(C=CC1)C#CCNC(C(F)(F)F)=O | C11H9F3N2O
reactant | 1-oxaspiro[2.5]octane | 9.2 mmol, 1.2 g | O1CC12CCCCC2 | C7H12O
solvent | EtOH H2O | CCO.O
product | 2,2,2-trifluoro-N-(3-(3-((1-hydroxycyclohexyl)methylamino)phenyl)prop-2-ynyl)acetamide | FC(C(=O)NCC#CC1=CC(=CC=C1)NCC1(CCCCC1)O)(F)F | C18H21F3N2O2
